US06632826B1
A solution of 4-benzyl-5-ethoxycarbonylmethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (48 g, 0.12 mol) in dry toluene was stirred at −78° C. during the addition of 1M diisobutyl aluminium hydride in toluene (165 ml, 165 mmol). The resulting mixture was stirred at −78° C. for 4 hours and ethyl acetate (60 ml) was then added. After 30 minutes, the mixture was allowed to warm to room temperature and a solution of potassium sodium L-tartrate tetrahydrate (250 g, mmoL) in water (800 ml) was added. The resulting biphasic mixture was stirred until the two phases were clear. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried (anhydrous magnesium sulfate) and concentrated in vacuo to provide 4-benzyl-2,2-dimethyl-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester which solidified upon standing overnight.

reactant | 4-benzyl-5-ethoxycarbonylmethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.12 mol, 48 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC(=O)OCC)(C)C | C21H31NO5
reactant | diisobutyl aluminium hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium sodium L-tartrate tetrahydrate | 250 g | O.O.O.O.C(=O)([O-])[C@H](O)[C@@H](O)C(=O)[O-].[Na+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 800 ml | O | H2O
solvent | toluene | 165 mmol, 165 ml | C1(=CC=CC=C1)C | C7H8
product | 4-benzyl-2,2-dimethyl-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OCC1(CC1=CC=CC=C1)CC=O)(C)C | C19H27NO4
